US04859662
1,2,3,9-Tetrahydro-9-methyl-3-[(5-methyl-1H-imidazol-4-yl)methyl] -4H-carbazol-4-one
A solution of 1,2,3,9-tetrahydro-9-methyl-3-[[5-methyl(triphenylmethyl)-1H-imidazol-4-yl]methyl]carbazol-4-one (268 mg) in a mixture of glacial acetic acid (5 ml), THF (5 ml) and water (5 ml) was heated at 100°-110° for 8 h. After cooling, 2N sodium hydroxide solution (50 ml) was added and the resulting suspension was extracted with dichloromethane (2×50 ml). The combined, dried organic extracts were concentrated to give a foam which was purified by FCC eluting with System A (100:8:1) to give the title compound (114 mg) as a solid. The 1H-n.m.r. and t.l.c. of this material were consistent with those obtained for the product of Example 8.

reactant | 1,2,3,9-tetrahydro-9-methyl-3-[[5-methyl(triphenylmethyl)-1H-imidazol-4-yl]methyl]carbazol-4-one | 268 mg | CN1C2=CC=CC=C2C=2C(C(CCC12)CC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H33N3O
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 1,2,3,9-Tetrahydro-9-methyl-3-[(5-methyl-1H-imidazol-4-yl)methyl] -4H-carbazol-4-one | 114 mg | CN1C2=CC=CC=C2C=2C(C(CCC12)CC=1N=CNC1C)=O | C18H19N3O
